US05476875
1 g of 4-hydroxy-3-methoxy-5-nitrophenyl 4-quinolyl ketone dissolved in 30 ml of 48 percent aqueous hydrobromic acid is stirred at 100° for 18 hours. After cooling to room temperature, the reaction mixture is diluted with 30 ml of water and the precipitate is filtered under suction. There is obtained 3,4-dihydroxy-5-nitrophenyl 4-quinolyl ketone hydrobromide of m.p. 273°-275° (from acetonitrile).

reactant | 4-hydroxy-3-methoxy-5-nitrophenyl 4-quinolyl ketone | 1 g | N1=CC=C(C2=CC=CC=C12)C(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)OC | C17H12N2O5
reactant | hydrobromic acid | 30 ml | Br | BrH
solvent | water | 30 ml | O | H2O
product | 3,4-dihydroxy-5-nitrophenyl 4-quinolyl ketone hydrobromide | Br.N1=CC=C(C2=CC=CC=C12)C(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | InChI=1S/C16H10N2O5.BrH/c19-14-8-9(7-13(16(14)21)18(22)23)15(20)11-5-6-17-12-4-2-1-3-10(11)12;/h1-8,19,21H;1H
